US04851422
To 2.85 ml of diisopropylamine dissolved in 30 ml of anhydrous tetrahydrofuran was added 12.5 ml of 1.5M n-butyl lithium (hexane solution) at -78° C. under nitrogen atmosphere. The mixture was stirred for 15 minutes. To the solution was added 3.45 g of dimethyl 2-oxoglutarate dimethyl acetal in 15 ml of anhydrous tetrahydrofuran, taking 10 minutes. The mixture was stirred for 15 minutes. To the mixture was added a solution of 1.32 ml of chloromethyl methylether and 1.36 ml of hexamethylphosphoramide in anhydrous tetrahydrofuran, taking 10 minutes. The temperature of the reaction mixture was raised up to -20° C. taking 30 minutes, followed by stirring at the same temperature for 3 hours. To the reaction solution was added a saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The extract solution was washed with water and dried (MgSO4). The solvent was evaporated off. The residue was subjected to a silica gel column chromatography, followed by elution with hexaneethyl acetate (2:1) to give 2.28 g of dimethyl 4-methoxymethyl-2-oxoglutarate dimethyl acetal as a pale yellow oily product.

reactant | diisopropylamine | 2.85 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.5M, 12.5 ml | C(CCC)[Li]
reactant | dimethyl 2-oxoglutarate dimethyl acetal | 3.45 g | COC(C(CCC(=O)OC)=O)(OC)OC | C9H16O6
reactant | chloromethyl methylether | 1.32 ml | ClCOC | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 1.36 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | dimethyl 4-methoxymethyl-2-oxoglutarate dimethyl acetal | 2.28 g | COC(C(CC(C(=O)OC)COC)=O)(OC)OC | C11H20O7
